data/specific_train_final.csv
[CH3:3][C:2]([CH3:4])([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[O:1].[N:12](=[O:13])[O:11]>>[CH3:3][C:2]([CH3:4])([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[O:1].[N+:12](=[O:13])[O-:11] 12-11,Room Temperature,Propagation,ha resonance
"[CH3:11][CH:6]([C:7]([CH3:8])([CH3:9])[OH:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:11][CH:6]([C:7]([CH3:8])([CH3:9])[OH:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCCCCCCCCC(CC)[O:20][O:21]N=O>>CCCCCCCCCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:7][CH2:6][O:5].[H:1][O:2].[O:3][O:4]>>[H:1][O:2][H:7].[CH2:6]=[O:5].[O:3][O:4] 2-2,7; 6,7-2,7; 6,7-6,5; 5-6,5",Room Temperature,Termination,abstraction
[CH3:1][CH2:2][O:3][CH2:4][CH2:5][O:6].[N:7](=[O:8])[O:9]>>[CH3:1][CH2:2][O:3][CH2:4][CH2:5][O:6].[N+:7](=[O:8])[O-:9] 7-9,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CC(=O)CC(C)(CO[O:10])O>>[H:20][O:10]OCC(C)(CC(=O)C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCC(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CC)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10]1C=CC2(C(C1[O:20][O:21]2)O)CC>>CCC1(C=C[C:10]2(C(C1O)[O:20]2)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CCOC(=O)C)[O:20].[N+:10](=O)[O-]>>CC(CCOC(=O)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C(CO)O[O:20])O.[N:10]=O>>CC(C)(C(CO)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CC(C)C(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1=C([CH:10]C(C=C1O)O[N+](=O)[O-])C.[O:20][O]>>CCC1=C([CH:10](C(C=C1O)O[N+](=O)[O-])[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:11][CH2:10][CH:9]([CH3:12])[CH2:8][CH2:7][O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:11][CH2:10][CH:9]([CH3:12])[CH2:8][CH2:7][O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 4,2-4; 4,2-2",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC1(C2CCC(C1C2)(CO[N+](=O)[O-])O[O:10])C>>[H:20][O:10]OC1(CCC2CC1C2(C)C)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(=O)/C=C\C1C(O1)[C:10]=O.[O:20][O]>>CCCC(=O)/C=C\C1C(O1)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC[O:20][O:21]OO>>CC(C)(C)OC[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]SC.[OH:10]>>[H:20][OH:10].CS[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)(CC)[O:20][O:21]N=O>>CCC(C)(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C)C(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])Cl)(O)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC12C=CC(C(C1O)OO2)[O:21][O:20][O].[N+](=O)[O-]>>CCCC12C=CC(C(C1O)OO2)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[CH:20]=[CH2:21].[N+](=O)([O-])[O:10]>>CCC[CH:20]([CH2:21])[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(C)(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCC(C)(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)O[O:20])(C)O)C.[N:10]=O>>CC1(CC2C1CCC(C(CCC2=C)O[O:20][N:10]=O)(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:20]1=[CH:21]C=CC(C1O)(C)O[O:10]>>CC[C:20]12[CH:21]C=CC(C1O)(C)O[O:10]2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1(C2C[CH:10]C(C1C2)(C)O)C.[O:20][O]>>CC1(C2CC1C([CH:10](C2)[O:20][O])(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OC[O:20].[N+:10](=O)[O-]>>CC(=O)OC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COC[O:20][O:21]N=O)O>>CC(COC[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C)OC(=O)CO[O:20][O:21][N+:11](=O)[O:10]>>CC(C)(C)OC(=O)CO[O:20][O:10].[N+:11](=O)[O:21] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C)(C)[O:20][O:21][O])O[N+](=O)[O-]>>CC(C(C)(C)[O:20])O[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C[O:20][O:21]N=O)OC>>CC(C)(C[O:20])OC.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][CH2:2][CH2:3][CH:4]([O:5])[O:6][CH2:7][CH2:8][OH:9].[OH:10][O:11][O:12]>>[CH3:1][CH2:2][CH2:3][CH:4]([O:5])[O:6][CH2:7][CH2:8][OH:9].[OH:10].[O:11][O:12] 10,11-10; 10,11-11",Room Temperature,Initiation,homolyze
"[H:20][CH:21](Cl)Cl.[OH:10]>>[H:20][OH:10].[CH:21](Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
